US08278302B2
3-Methyl-5-(1-methyl-1H-tetrazol-5-yl)-phenylamine
A solution of [3-Amino-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-methanol (450 mg) in MeOH (20 ml) with a few drops of conc. HCl (aq) was hydrogenated on a H-cube apparatus at 30° C., and 10 bar with a flow rate of 1 mL/min using a Pd/C cartridge. After reaction completion, the mixture was concentrated in vacuum and the residue basified with a dilute K2CO3(aq). This was extracted with EtOAc and the organic layer was separated, dried and concentrated in vacuum. The residue was purified by flash chromatography (98:2 DCM:MeOH) to give the title compound (320 mg).

reactant | [3-Amino-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-methanol | 450 mg | NC=1C=C(C=C(C1)C1=NN=NN1C)CO | C9H11N5O
solvent | MeOH | 20 ml | CO | CH4O
catalyst | HCl | a few drops | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
product | 3-Methyl-5-(1-methyl-1H-tetrazol-5-yl)-phenylamine | 320 mg | CC=1C=C(C=C(C1)C1=NN=NN1C)N | C9H11N5
